US07745661B2
Next, 3.52 g (20 mmol) of 1,2,3-propanetricarboxylic acid (made by Nacalai Tesque) and 13.6 g (120 mmol) of 2-methylcyclohexylamine were added to the xylene solution of a tricresol boric acid ester obtained above, and the contents were refluxed under heating and reacted for 3 hours. This gave a crude 1,2,3-propanetricarboxylic acid tris(2-methylcyclohexylamide) as a white solid.

reactant | 1,2,3-propanetricarboxylic acid | 20 mmol, 3.52 g | C(C(CC(=O)O)C(=O)O)C(=O)O | C6H8O6
reactant | 2-methylcyclohexylamine | 120 mmol, 13.6 g | CC1C(CCCC1)N | C7H15N
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1,2,3-propanetricarboxylic acid tris(2-methylcyclohexylamide) | CC1C(CCCC1)NC(=O)CC(CC(=O)NC1C(CCCC1)C)C(=O)NC1C(CCCC1)C | C27H47N3O3
